US04847241
2-[3-(4-fluorophenyl)-2E-propenyl]-1H-isoindole-1,3(2H)-dione
N-Allylphthalimide (13.9 g, 74.3 mmol), 1-fluoro-4-iodobenzene (15.0 g, 67.6 mmol) triethylamine (15.0 g, 148 mmol) and Pd(OAc)2 (152 mg) were heated at 104° in a glass bomb with shaking for 18 h under an inert atmosphere. The reaction mixture was dissolved in hot acetonitrile. The catalyst was removed by filtration and the filtrate cooled to 0°. The precipitated white solid product was filtered off and dried under vacuum. This title material (12.55 g) was used without further purification.

reactant | N-Allylphthalimide | 74.3 mmol, 13.9 g | C(C=C)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO2
reactant | 1-fluoro-4-iodobenzene | 67.6 mmol, 15.0 g | FC1=CC=C(C=C1)I | C6H4FI
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 152 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[3-(4-fluorophenyl)-2E-propenyl]-1H-isoindole-1,3(2H)-dione | FC1=CC=C(C=C1)C/C=C/N1C(C2=CC=CC=C2C1=O)=O | C17H12FNO2
